US09029399B2
Preparation of 1-(4-cyclopropylpyridin-3-yl)-3-(2-methoxypyridin-4-yl)imidazolidin-2-one (9A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-1d: 100 mg, 0.492 mmol) was reacted with 4-bromo-2-methoxypyridine (111.1 mg, 0.591 mmol), 1,4-dioxane (5 mL), copper iodide (9.39 mg, 0.049 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (6.98 mg, 0.049 mmol) and potassium phosphate (312.9 mg, 1.476 mmol) to afford the crude product. Purification by column chromatography on silica gel (1% methanol in CHCl3) afforded 80 mg of the product (52% yield).

reactant | 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 0.492 mmol, 100 mg | C1(CC1)C1=C(C=NC=C1)N1C(NCC1)=O | C11H13N3O
reactant | 4-bromo-2-methoxypyridine | 0.591 mmol, 111.1 mg | BrC1=CC(=NC=C1)OC | C6H6BrNO
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.049 mmol, 6.98 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 1.476 mmol, 312.9 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.049 mmol, 9.39 mg | [Cu](I)I
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-(4-cyclopropylpyridin-3-yl)-3-(2-methoxypyridin-4-yl)imidazolidin-2-one | 80 mg, 52% yield | C1(CC1)C1=C(C=NC=C1)N1C(N(CC1)C1=CC(=NC=C1)OC)=O | C17H18N4O2
